US05354866
A. (2S,3R,4R,5S)-2,5-Bis-(N-Cbz-amino)-3,4-bis-(mesyloxy)-1,6-diphenylhexane
A slurry of 1.50 g (2.64 mmol) of (2S,3R,4R,5S)-2,5-bis-(N-Cbz-amino)-3,4-dihydroxy-1,6-diphenylhexane in 50 ml of anhydrous dichloromethane was cooled to 0° C. and treated sequentially with 0.43 ml of methanesulfonyl chloride, 64 mg of 4-dimethylaminopyridine and 1.1 ml of triethylamine. The resulting mixture was stirred for 15 h with the temperature being allowed to slowly climb to ambient temperature. After treatment with aqueous NH4Cl, the separated organic layer was washed with aqueous NaHCO3, dried over MgSO4, and concentrated in vacuo to provide 1.70 g (90%) of the desired compound, m.p. 153°-155° C. 1H NMR (CDCl3) δ2.73 (m, 2 H), 2.92 (m, 2 H), 3.09 (s, 6 H), 4.61 (m, 2 H), 4.83-5.06 (m, 8 H), 7.12-7.37 (m, 20 H).

reactant | (2S,3R,4R,5S)-2,5-bis-(N-Cbz-amino)-3,4-dihydroxy-1,6-diphenylhexane | 2.64 mmol, 1.50 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)[C@H]([C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)O)O | C34H36N2O6
reactant | methanesulfonyl chloride | 0.43 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 64 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (2S,3R,4R,5S)-2,5-Bis-(N-Cbz-amino)-3,4-bis-(mesyloxy)-1,6-diphenylhexane | 1.70 g, 90% | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)[C@H]([C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)OS(=O)(=O)C)OS(=O)(=O)C | C36H40N2O10S2
